US07612114B2
6-{2-{[4-(2-Azepan-1-ylethoxy)benzyl]ethylamino}-4-methoxyphenyl}-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol
Synthesized from {2-[2-(tert-butyldimethylsilyloxy)-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-5-methoxyphenyl}ethylamine and 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride according to an analogous synthetic method to Example 152, [4-(2-azepan-1-ylethoxy)benzyl]{2-[2-(tert-butyldimethylsilyloxy)-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-5-methoxyphenyl}ethylamine (584 mg) was used according to an analogous synthetic method to Example 325 described below to provide the title compound (426 mg).

reactant | {2-[2-(tert-butyldimethylsilyloxy)-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-5-methoxyphenyl}ethylamine | [Si](C)(C)(C(C)(C)C)OC=1C=CC2=C(CCCC(C2)C2=C(C=C(C=C2)OC)CCN)C1 | C26H39NO2Si
reactant | 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride | Cl.N1(CCCCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | [4-(2-azepan-1-ylethoxy)benzyl]{2-[2-(tert-butyldimethylsilyloxy)-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-5-methoxyphenyl}ethylamine | 584 mg | N1(CCCCCC1)CCOC1=CC=C(CNCCC2=C(C=CC(=C2)OC)C2CC3=C(CCC2)C=C(C=C3)O[Si](C)(C)C(C)(C)C)C=C1 | C41H60N2O3Si
product | 6-{2-{[4-(2-Azepan-1-ylethoxy)benzyl]ethylamino}-4-methoxyphenyl}-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol | 426 mg | N1(CCCCCC1)CCOC1=CC=C(CCCNC2=C(C=CC(=C2)OC)C2CC3=C(CCC2)C=C(C=C3)O)C=C1 | C35H46N2O3
